US09422267B2
To a suspension of ethyl 2-oxocyclopentanecarboxylate (10 mL, 67.2 mmol) and urea (6.07 g, 101 mmol) in EtOH (20 mL), cooled in an ice-bath, was added concentrated HCl (1 mL) dropwise. After completion of addition, the ice bath was removed and the reaction mixture was stirred at RT for 30 min. The reaction mixture was then heated to reflux at 85° C. for 5 h. The reaction mixture was cooled to RT and the EtOH was decanted to give a crystalline solid. The solid was heated to reflux with aqueous 5% NaOH solution (25 mL) for 2 h. The reaction mixture was cooled to RT and the precipitate was collected by filtration. The precipitate was washed with water and dried to afford 6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diol (5.36 g, 52% yield). 1H NMR (400 MHz, DMSO-d6) δ (ppm): 1.81-1.97 (m, 2H), 2.38-2.46 (m, 2H), 2.47-2.60 (m, 2H), 10.70 (s, 1H), 11.05 (s, 1H).

reactant | ethyl 2-oxocyclopentanecarboxylate | 67.2 mmol, 10 mL | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | urea | 101 mmol, 6.07 g | NC(=O)N | CH4N2O
reactant | HCl | 1 mL | Cl | ClH
reactant | NaOH | 25 mL | [OH-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diol | 5.36 g, 52% yield | N1=C(N=C(C2=C1CCC2)O)O | C7H8N2O2
